datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si](C)(C)C12[C:62]3([C:11](=[CH2:10])[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11]([C:62]12C3([Si](C)(C)C)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]32(C#[O+])(C#[O+])C#[O+])[C:82]1=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.F[B-:63](F)(F)[CH2:62][CH:11]=[CH2:10]>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([CH2:10][CH+:11][CH2:62][B-:63](F)(F)F)[N-:21]1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[NH:10][N:61](C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10](C)[N:61](C)C)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(CC2C[O:72][C:61](=[O:62])[N-:10]2)C=C1.C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1>>C1=CC=C(CC2C[O:72][C:61](=[O:62])[N:10]2[CH:20]([CH:21]=[CH:22][N:23](CC2=CC=CC=C2)CC2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10=20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]\[N:12]1CCOCC1.C[N+:21](C)=[CH:20]Cl>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20](Cl)[N:21](C)C 10,11=10,20;12=11,12;20,21=21"
"CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32]>>CN(C)C1=CC=C(C[C:10]2([CH:20]3[CH:21]=[C:22]([O-:23])[N:43](C)[C:31]3=[O:32])[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>CN(C)C1=CC=C([CH:20]([CH:10]([N+:61]#[N:62])[Si:71](C)(C)C)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[N-:10]1[C:61](=[O:62])[CH:71]=[CH:72][C:71]1=[O:72]>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:61](=[O:62])[CH:71]=[CH:72][C:71]2=[O:72])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10]>>C1C[N+]2(C[C:21]3=[C:22]([O-:23])O[C:32]4=[C:31]([CH:20]3[H:10])[CH:36]=[CH:35][CH:34]=[CH:33]4)CCN1CC2.FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.C1C[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CCO1>>C1CC[C-:21]([O:20][CH2:10][C:11](=[N+:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CCCC[O:61][P:10]([O:71]CCCC)[O:81]CCCC>>CCCC[O:61][P+:10]([C:20]([O-:21])=[N:31]C1=CC=CC=C1)([O:71]CCCC)[O:81]CCCC 10=20;20,21=21"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCCC1)=[O:62].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[O:72][C:61]([C:10]1([CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)CCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21"
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CN(C)[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63]>>CN(C)[C:62]([C@@H:61]1CCC[NH+:10]1[C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1)=[O:63] 10=20;20,21=21"
"C[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12"
